US07459552B2
Synthesis of 2-[4-[2-(5-benzyloxybenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide
Under argon, N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide (1.00 g, 2.70 mmol), 5-benzyloxy-2-mercaptobenzimidazole (2.57 g, 10.0 mmol), and triphenylphosphine (2.50 g, 9.53 mmol) were dissolved in N,N-dimethylformamide (30 mL). To the solution, under cooling with ice, diethyl azodicarboxylate (1.27 mL, 8.07 mmol) was added dropwise, followed by stirring for one hour at the same temperature. Ethyl acetate and 1 mol/L hydrochloric acid were added to the reaction mixture. The aqueous layer was separated from the mixture, and the organic layer was further extracted with 1 mol/L hydrochloric acid. The obtained aqueous layers were combined and adjusted to basic conditions with a 1 mol/L aqueous sodium hydroxide solution, followed by extraction with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, followed by drying over sodium sulfate anhydrate. The solvent was removed under reduced pressure. The thus-obtained residue was purified through silica gel column chromatography (chloroform : saturated ammonia-methanol=20:1), to thereby yield 1.56 g of 2-[4-[2-(5-benzyloxybenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide as a colorless amorphous product (yield 94.9%).

reactant | N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide | 2.70 mmol, 1.00 g | CSC1=NC(=CC(=C1NC(CN1CCN(CC1)CCO)=O)SC)C | C16H26N4O2S2
reactant | 5-benzyloxy-2-mercaptobenzimidazole | 10.0 mmol, 2.57 g | C(C1=CC=CC=C1)OC1=CC2=C(N=C(N2)S)C=C1 | C14H12N2OS
reactant | triphenylphosphine | 9.53 mmol, 2.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 8.07 mmol, 1.27 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-[2-(5-benzyloxybenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide | yield 94.9% | C(C1=CC=CC=C1)OC1=CC2=C(N=C(N2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2SC)C)SC)C=C1 | C30H36N6O2S3
